US05194430
Step e: N-Carbobenzoxy-3[(diethoxyphosphinyl)acetyl]-piperidine-2-carboxylic acid, benzyl ester
Dissolve N-carbobenzoxy-3[(diethoxyphosphinyl)acetyl]-piperidine-2-carboxylic acid (36.4 mmol) in dimethylformamide (200 mL) and place under a nitrogen atmosphere. Add benzyl bromide (10.5 mL), 81 mmol) and dicyclohexyl amine (16.2 mL, 89 mmol) and heat to 65° C. Allow to cool slowly to room temperature and filter. Pour the filtrate into water (11/2 L) and extract with ethyl acetate (2×500 mL). Combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo to give a brown oil. Purify by flash chromatography (ethyl acetate) to give the title compound as a yellow oil (3.6 g, 19%).

reactant | N-carbobenzoxy-3[(diethoxyphosphinyl)acetyl]-piperidine-2-carboxylic acid | 36.4 mmol | C(=O)(OCC1=CC=CC=C1)N1C(C(CCC1)C(CP(=O)(OCC)OCC)=O)C(=O)O | C20H28NO8P
reactant | benzyl bromide | 10.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dicyclohexyl amine | 89 mmol, 16.2 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | N-Carbobenzoxy-3[(diethoxyphosphinyl)acetyl]-piperidine-2-carboxylic acid, benzyl ester | 3.6 g, 19% | C(=O)(OCC1=CC=CC=C1)N1C(C(CCC1)C(CP(=O)(OCC)OCC)=O)C(=O)OCC1=CC=CC=C1 | C27H34NO8P
